US06573384B1
1-5) Ethyl [1-[1-(2-Fluorophenetyl)piperidin-4-yl]-2-chloroindol-6-yl]acetate
A suspension of ethyl [1-[1-(2-fluorophenetyl)piperidin-4-yl]-2-oxoindolin-6-yl]acetate (32.5 g, 76.559 mmol) in phosphoryl chloride (75.0 ml) was refluxed under heating for 2.5 hours (after 30 min., the suspension was dissolved). After removing the solvent, ethyl acetate (100 ml) and a 2N aqueous sodium hydroxide solution were added thereto, to separate the organic layer. It was washed with a 2N aqueous sodium hydroxide solution, water and brine, and then added with anhydrous magnesium sulfate and activated clay. After filtering, the solvent was removed, to give the title compound (yield: 33.2 g, 74.952 mmol, 97.9%).

reactant | ethyl [1-[1-(2-fluorophenetyl)piperidin-4-yl]-2-oxoindolin-6-yl]acetate | 76.559 mmol, 32.5 g | FC1=C(C=CC(=C1)OCC)N1CCC(CC1)N1C(CC2=CC=C(C=C12)CC(=O)OCC)=O | C25H29FN2O4
reactant | phosphoryl chloride | 75.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl [1-[1-(2-Fluorophenetyl)piperidin-4-yl]-2-chloroindol-6-yl]acetate | 74.952 mmol, yield: 33.2 g, 97.9% | FC1=C(C=CC(=C1)OCC)N1CCC(CC1)N1C(=CC2=CC=C(C=C12)CC(=O)OCC)Cl | C25H28ClFN2O3
